US03987047
7-Chloro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester was prepared from 7-chloro-1,2,4,5-tetrahydro-11methyl-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 7-chloro-1,2,4,5-tetrahydro-11methyl-3H-azepino[4,5-b]quinoline | ClC1=CC=CC=2C(=C3C(=NC12)CCNCC3)C | C14H15ClN2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 7-Chloro-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | Yield: 70% | C(C)OC(=O)N1CCC2=NC=3C(=CC=CC3C(=C2CC1)C)Cl | C17H19ClN2O2
